US07141586B2
3-methoxy-4-(methylsulfanyl)phenol
Sodium borohydride (18.92 g, 0.5 mol) was added portionwise to a solution of 4-(allyloxy)-2-methoxy-1-(methylsulfanyl)benzene (26.0 g, 0.124 mol), and tetrakis(triphenylphosphine)palladium (0) (7.14 g, 6.18 mol) in THF (600 ml) at 5° C. The resultant solution was allowed to warm to RT and then heated to 45° C. for 14 h whilst protected under an atmosphere of nitrogen. After cooling in an ice-bath, the reaction mixture was acidified to pH5 with HCl (2M, 200 ml). Water (200 ml) and EtOAc (300 ml) were added, and the aqueous phase separated and extracted with EtOAc (2×200 ml). The combined organics were dried over MgSO4 and concentrated to a black solid (40 g) which was purified by flash column chromatography on silica gel eluting with EtOAc:pentane (1:9 to 3:7) to afford the title compound as a white solid (11.85 g, 0.07 mol).

reactant | Sodium borohydride | 0.5 mol, 18.92 g | [BH4-].[Na+]
reactant | 4-(allyloxy)-2-methoxy-1-(methylsulfanyl)benzene | 0.124 mol, 26.0 g | C(C=C)OC1=CC(=C(C=C1)SC)OC | C11H14O2S
reactant | HCl | 2M, 200 ml | Cl | ClH
reactant | Water | 200 ml | O | H2O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 6.18 mol, 7.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
product | 3-methoxy-4-(methylsulfanyl)phenol | 0.07 mol, 11.85 g | COC=1C=C(C=CC1SC)O | C8H10O2S
